### PR TITLE
feat: Carmichael's totient function conjecture

### LINKED ISSUE #1784: Wikipedia: Carmichael's totient function conjecture
### What is the conjecture
There is no integer $n$ such that the equation $\phi(m) = n$ has only one solution, $\phi(m)$ being the Euler totient function that counts the number of integers less than and coprime to $m$ (Robert D. Carmichael, 1907).

* https://en.wikipedia.org/wiki/Carmichael's_totient_function_conjecture
* https://oeis.org/A014197

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [X] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by felixpernegger**
Closes #1784.

### CODE REVIEW

**Comment by Paul-Lez** [comment]
I think this is also in the Erdos Problems list! (or is very similar to a problem in that list - let me see if I can find out which one)

File: FormalConjectures/Wikipedia/CarmichaelTotient.lean [hunk 1]
```diff
@@ -0,0 +1,67 @@
...
+/-- $n = 0 ↔ φ(n) = 0$ -/
+@[category test, AMS 11]
+theorem carchimichealTotientFor_zero : ¬ CarmichaelTotientFor 0 := by
+  simp [CarmichaelTotientFor]
+
+-- TODO: Version of this ↓ lemma to mathlib?
+
+/-- For every odd number $n$, $φ(2n) = φ(n)$ -/
+@[category high_school, AMS 11]
+theorem carmichealTotientFor_odd {n : ℕ} (hn : Odd n) : CarmichaelTotientFor n := by
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/CarmichaelTotient.lean:48]: Sure, yes! Please add that to ForMathlib

Comment (felixpernegger) [reply FormalConjectures/Wikipedia/CarmichaelTotient.lean:48]: I just PR'ed this to mathlib directly:
https://github.com/leanprover-community/mathlib4/pull/34264
